US07737153B2
(2-Amino-6-chloropyrimidin-4-yl)methanol
10.5 g (55.97 mmol) of methyl 2-amino-6-chloropyrimidine-4-carboxylate (prepared according to G. Doyle Daves, Fred Baiocchi, Roland K. Robins, and C. C. Cheng, J. Org. Chem., 26 (1961), 2755-2763) are initially charged in 450 ml of ethanol. 21.17 g (559.74 mmol) of sodium borohydride are added, and the mixture is stirred at room temperature for 2 hours. 500 ml of ethyl acetate and 500 ml of water are added, and the solution is stirred for 30 minutes. The phases are separated and the aqueous phase is extracted three times with ethyl acetate (in each case 100 ml). The combined organic phases are washed with saturated aqueous sodium chloride solution, dried with anhydrous magnesium sulfate and concentrated. This gives 7.21 g (85% of theory) of product.

reactant | methyl 2-amino-6-chloropyrimidine-4-carboxylate | 55.97 mmol, 10.5 g | NC1=NC(=CC(=N1)C(=O)OC)Cl | C6H6ClN3O2
reactant | sodium borohydride | 559.74 mmol, 21.17 g | [BH4-].[Na+]
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 500 ml | O | H2O
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | (2-Amino-6-chloropyrimidin-4-yl)methanol | NC1=NC(=CC(=N1)CO)Cl | C5H6ClN3O
